US04460508
Alternately, 0.75 g of 1,1'-carbonyldiimidazole was added at once to a suspension of 0.79 g of 2-(2-aminobenzyl)imidazole in 38 ml of methylene chloride and the mixture was stirred at room temperature overnight. The resulting precipitate was collected and recrystallized from methylene chloride to give the crude 11H-imidazo[1,2-c][1,3]benzodiazepin-5(6H)-one, m.p. 238°-40°.

reactant | 1,1'-carbonyldiimidazole | 0.75 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-(2-aminobenzyl)imidazole | 0.79 g | NC1=C(CC=2NC=CN2)C=CC=C1 | C10H11N3
solvent | methylene chloride | 38 ml | C(Cl)Cl | CH2Cl2
product | 11H-imidazo[1,2-c][1,3]benzodiazepin-5(6H)-one | N=1C=CN2C(NC3=C(CC21)C=CC=C3)=O | C11H9N3O
